US05925789
(S)-5-Chloro-α-(cyclopropylethynyl)-2-amino-α-(trifluoromethyl) benzenemethanol
To a slurry of DDQ (9.42 g, 41.5 mmol) in t-butyl methyl ether (33 ml) at 10° C. was added a solution of (S)-5-chloro-α-(cyclopropylethynyl)-2-[(4-methoxyphenyl)methyl]-amino!-α-(trifluoromethyl) benzenemethanol (16.38 g, 40 mmol). After 5 minutes the resulting slurry was filtered at 30° C. and the resulting solids washed with 5 ml t-butyl methyl ether. The filtrate was washed with 5% aqueous sodium bicarbonate then partially concentrated by distilling 70 ml solvent. Methanol (25 ml) was added followed by distilling 25 ml of solvent. Methanol (25 ml) and 6N NaOH (4 ml) were added followed by distillation of 20 ml of solvent. 4N NaOH (26 ml) was added and the mixture heated briefly to 58° C. then cooled to 30° C. A solution of sodium borohydride (0.60 g, 15.9 mmol) in 0.5 N NaOH (6 mL) was added. After 15 minutes, water (45 ml) was added followed by acetone (1 ml). After 0.5 hours, acetic acid (12 ml, 210 mmol) was added to a pH of 7.5. The resulting slurry was cooled to about 0° C., filtered and the product was washed with water then dried in vacuo at 40° C. The crude product was reslurried at room temperature with methylcyclohexane, cooled to about 0° C. and filtered. This material was further purified by recrystallization from t-butyl methyl ether/hexanes to give 9.95 g (86%) as a white solid. The physical characteristics were identical with product prepared by the two step (p-chloranil/NaBH4) process. (Example 6, above)

reactant | DDQ | 41.5 mmol, 9.42 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | α-(trifluoromethyl) benzenemethanol | 40 mmol, 16.38 g | FC(C(O)C1=CC=CC=C1)(F)F | C8H7F3O
reactant | sodium borohydride | 15.9 mmol, 0.60 g | [BH4-].[Na+]
reactant | acetic acid | 210 mmol, 12 ml | C(C)(=O)O | C2H4O2
reactant | p-chloranil NaBH4 | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl.[BH4-].[Na+]
solvent | t-butyl methyl ether | 33 ml | COC(C)(C)C | C5H12O
solvent | NaOH | 0.5 N, 6 mL | [OH-].[Na+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | water | 45 ml | O | H2O
product | (S)-5-Chloro-α-(cyclopropylethynyl)-2-amino-α-(trifluoromethyl) benzenemethanol | ClC=1C=CC(=C(C1)[C@](O)(C(F)(F)F)C#CC1CC1)N | C13H11ClF3NO
